US07811595B2
Preparation of 2-{[5-(3-chloro-phenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester (20):
To a degassed solution of 2-[(3-hydroxy-5-trifluoromethanesulfonyloxy-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester (0.17 g, 0.44 mmol) in 1,4-dioxane (3 mL) at room temperature under N2 is added 3-chlorophenyl boronic acid (0.082 g, 0.53 mmol), K3PO4 (0.112 g, 0.53 mmol) and Pd(dppf)Cl2 (0.036 g, 0.04 mmol). The resulting suspension is heated to 85° C. in a sealed tube for 20 hours. After cooling, the reaction solution is filtered through Celite™ and the collected solids are washed with additional MeOH. The filtrate and washings are concentrated under reduced pressure and the residue dissolved in CH2Cl2 and washed with 10% citric acid. The organic layer is dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product is purified over silica (EtOAc:heptane 1:4) to afford 0.112 g (73% yield) of the desired compound as a colorless oil. 1H NMR (250 MHz, CDCl3) δ ppm 11.83 (1H, br s), 8.29 (1H, br s), 8.10 (1H, d, J=2.0 Hz), 7.40 (1H, m), 7.08-7.34 (4H, m), 3.65 (3H, s), 1.55 (6H, s). HPLC-MS: m/z 349 [M+H]+.

reactant | 2-[(3-hydroxy-5-trifluoromethanesulfonyloxy-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 0.44 mmol, 0.17 g | COC(C(C)(C)NC(=O)C1=NC=C(C=C1O)OS(=O)(=O)C(F)(F)F)=O | C12H13F3N2O7S
reactant | 3-chlorophenyl boronic acid | 0.53 mmol, 0.082 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K3PO4 | 0.53 mmol, 0.112 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.04 mmol, 0.036 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{[5-(3-chloro-phenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 0.112 g, 73% yield | COC(C(C)(C)NC(=O)C1=NC=C(C=C1O)C1=CC(=CC=C1)Cl)=O | C17H17ClN2O4
